US07851629B2
4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1,2,3,6-tetrahydropyridine
A solution of 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-methylpiperidin-4-ol (1.2 g, 4.33 mmol) in polyphosphoric acid (4 ml) was heated at 100° C. for 2 h. The mixture was poured on to ice and was basified with an aqueous sodium hydroxide solution (15%). The mixture was extracted with ethylacetate (3×50 ml) and the combined organic phases was dried (MgSO4), filtered and evaporated to dryness. The residue was purified by flash column chromatography (ethylacetate/methanol, 1:1) to give the title compound (0.59 g). MS m/z (rel. intensity, 70 eV) 259 (M+, bp), 258 (66), 147 (74), 146 (27), 96 (52).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-methylpiperidin-4-ol | 4.33 mmol, 1.2 g | FC1=C(C=CC=C1C(F)(F)F)C1(CCN(CC1)C)O | C13H15F4NO
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1,2,3,6-tetrahydropyridine | 0.59 g | FC1=C(C=CC=C1C(F)(F)F)C=1CCN(CC1)C | C13H13F4N
